US07799806B2
Step 3: 4-Imidazo[4,5-c]pyridin-1-yl-piperidine-1-carboxylic acid tert-butyl ester
To a solution of 4-(3-amino-pyridin-4-ylamino)-piperidine-1-carboxylic acid tert-butyl ester (10.0 g, 34.20 mmol, 1.0 equiv) and triethyl orthoformate (10.14 g, 68.40 mmol, 2.0 equiv) in anhydrous toluene (70 mL) was added toluene-4-sulfonic acid (0.59 g, 3.42 mmol, 0.1 equiv) and the reaction mixture heated to reflux for 16 h. The solvent was removed by evaporation under reduced pressure and the residue triturated with diethyl ether. The preciptate was filtered off, washed with diethyl ether and dried under reduced pressure to yield 7.6 g (73%) of the title compound. 1H NMR (400 MHz, DMSO): δ 1.43 (s, 9H), 1.92-2.04 (m, 4H), 2.95 (br s, 2H), 4.13 (br s, 2H), 4.64 (t, J=3.8 Hz, 1H), 7.75 (d, J=5.5 Hz, 1H), 8.34 (d, J=5.5 Hz, 1H), 8.55 (s, 1H), 8.95 (s, 1H). MS (ISP): 303.2 [M+H]1.

reactant | 4-(3-amino-pyridin-4-ylamino)-piperidine-1-carboxylic acid tert-butyl ester | 34.20 mmol, 10.0 g, 1.0 equiv | C(C)(C)(C)OC(=O)N1CCC(CC1)NC1=C(C=NC=C1)N | C15H24N4O2
reactant | triethyl orthoformate | 68.40 mmol, 10.14 g, 2.0 equiv | C(OCC)(OCC)OCC | C7H16O3
reactant | toluene-4-sulfonic acid | 3.42 mmol, 0.59 g, 0.1 equiv | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | 70 mL | C1(=CC=CC=C1)C | C7H8
product | 4-Imidazo[4,5-c]pyridin-1-yl-piperidine-1-carboxylic acid tert-butyl ester | 7.6 g, 73% | C(C)(C)(C)OC(=O)N1CCC(CC1)N1C=NC=2C=NC=CC21 | C16H22N4O2
